US06500863B1
N-(2-isopropoxyethyl)-6-chloro-2-hydroxy-3-nitrobenzenesulfonamide
Following the general hydrolysis procedure outlined in example 15, N-(2-isopropoxyethyl)-2,6-dichloro-3-nitrobenzenesulfonamide (1.635 g, 4.58 mmol), 60% NaH (0.41 g, 13.74 mmol) and water (0.099 mL, 5.50 mmol) were reacted. The crude product (1.676 g) was carried on to the next step without purification. LC-MS (m/z) 340 (M-H)+.

reactant | N-(2-isopropoxyethyl)-2,6-dichloro-3-nitrobenzenesulfonamide | 4.58 mmol, 1.635 g | C(C)(C)OCCNS(=O)(=O)C1=C(C(=CC=C1Cl)[N+](=O)[O-])Cl | C11H14Cl2N2O5S
reactant | NaH | 13.74 mmol, 0.41 g | [H-].[Na+]
reactant | water | 5.50 mmol, 0.099 mL | O | H2O
product | N-(2-isopropoxyethyl)-6-chloro-2-hydroxy-3-nitrobenzenesulfonamide | C(C)(C)OCCNS(=O)(=O)C1=C(C(=CC=C1Cl)[N+](=O)[O-])O | C11H15ClN2O6S
